Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Tetracycline / Penicillins / Tape ___ / Lipitor
 
Attending: ___
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
Mrs. ___ is an ___ year-old right-handed woman with a history
of atrial fibrillation on Coumadin, CAD, and mild dementia who
presented to the ED after a mechanical fall ___ hours ago and
findings of SAH.

The patient was in her usual state of health on ___ when she 
was
going to dinner with her daughter.  She tripped and fell outside
onto hard pavement.  The right side of her face directly hit the
pavement.  She did not lose consciousness. She was able to get 
up
unassisted.  She did not think much of the fall and went to
dinner with her daughter. That night her face felt sore, but she
did not have a headache.  The following morning she went to a
routine cardiology appointment and her cardiologist asked her
about the bruising around her right eye and face.  He asked her
to go directly to the ED where a ___ was obtained showing
intracerebral blood of the left parietal lobe.  She was then
transferred to ___ ED.

On my examination she continues to deny headache, neck pain, 
n/v,
or focal neurological deficits.

 
Past Medical History:
Afib
CAD s/p CABG and AVR in ___
SSS s/p pacemaker
TIA
HLD
HTN
s/p bilat TKR
s/p Hysterectomy
s/p Bladder susp
Osteoarthritis

 
Social History:
___
Family History:
Non Contributory.
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
Vitals: 98.1 60 150/76 16 98% RA  
General: alert, appears stated age, NAD
HEENT: right facial and periorbital ecchymosis, Right eye,
lateral sclera is completely ecchymotic to the lateral edge of
the ___.
Neck: Supple, no nuchal rigidity, no carotid/vertebral bruits
Cardiovascular: irregularly irregular, no m/r/g
Pulmonary: CTAB
Extremities: Warm, no edema, palpable DP pulses, right lateral
hand with ecchymosis and swelling

Neurologic Examination:
- Mental Status - Awake, alert, oriented to full name,
"hospital", year, month (not date).  Attention to examiner 
easily
attained and maintained.  Speech is fluent. No dysarthria.
Verbal comprehension intact. Normal prosody. 
- Cranial Nerves - [II] Visual acuity ___ bilaterally PERRL
4->2 brisk. [III, IV, VI] EOMI, no nystagmus. [V] V1-V3 without
deficits to light touch bilaterally. [VII] No facial movement
asymmetry. [VIII] Hearing intact to finger rub bilaterally. [IX,
X] Palate elevation symmetric. [XI] SCM/Trapezius strength ___
bilaterally. [XII] Tongue midline.

- Motor - Normal bulk and tone. No pronation, no drift. No 
tremor
or asterixis.  Full strength throughout. 

- Sensory - No deficits to light touch on all 4 extremities and
face.  

- Reflexes: 2+ symmetric except absent at the ankles.  Toes
withdrawal bilaterally

- Coordination - No dysmetria on FNF. 

- Rhomberg/Gait - deferred

PHYSICAL EXAMINATION ON DISCHARGE:
Alert and oriented x3. Speech fluent and clear. Comprehension 
intact.
CN II-XII grossly intact. Right facial ecchymosis. 
Motor examination full strength in the upper and lower 
extremities bilaterally.

 
Pertinent Results:
CT Cervical Spine ___:
No evidence of acute fracture or dislocation.  Degenerative 
changes. 

Head CT ___:
1.  Stable left parietal subarachnoid hemorrhage.  No new 
hemorrhage or shift of midline structures. 
2.  Incidental soft tissue lesion anterior to the right maxilla 
can be 
correlated on exam. 

 
Brief Hospital Course:
Ms. ___ presented to the emergency department on ___. 
Her INR was elevated 
to 2.5 and she received 2 units of FFP in the ED as well as 
Vitamin K 5mg x1.

On ___, she remained neurologically stable. She underwent a 
repeat head CT which was stable. Her INR was elevated at 1.6 and 
she received 1-unit of FFP. A repeat INR was was 1.3. She 
ambulated with the nursing staff. A formal physical therapy 
consult was placed. 

On ___, Ms. ___ remained neurologically stable. She was 
evaluated by ___ who recommended discharge to home with 24-hour 
supervision. It was determined she would re-start Aspirin 81mg 
PO daily on ___ but would not re-start the Coumadin as she 
has a porcine valve and is at a high risk for falls and 
subsequent intracranial hemorrhage. She was discharged later 
that day into the care of her daughter. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Escitalopram Oxalate 10 mg PO DAILY 
2. Levothyroxine Sodium 25 mcg PO DAILY 
3. Warfarin 5 mg PO DAILY16 
4. Metoprolol Tartrate 12.5 mg PO QPM 
5. Pravastatin 20 mg PO QPM 
6. Memantine 10 mg PO BID 
7. Aspirin 81 mg PO DAILY 
8. Donepezil 10 mg PO QPM 
9. Digoxin 0.125 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. LeVETiracetam 500 mg PO BID 
RX *levetiracetam [Keppra] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*14 Tablet Refills:*0
RX *levetiracetam [Keppra] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*14 Tablet Refills:*0
3. Digoxin 0.125 mg PO DAILY 
4. Donepezil 10 mg PO QPM 
5. Escitalopram Oxalate 10 mg PO DAILY 
6. Levothyroxine Sodium 25 mcg PO DAILY 
7. Memantine 10 mg PO BID 
8. Metoprolol Tartrate 12.5 mg PO BID 
9. Pravastatin 20 mg PO QPM 
10. Acetaminophen 325-650 mg PO Q6H:PRN pain 
11. Outpatient Physical Therapy
Please focus on balance training and gait stability. 
ICD-9 Code ___.0 Subarachnoid Hemorrhage

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Traumatic Subarachnoid Hemorrhage

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Nonsurgical Brain Hemorrhage:

¨     Take your pain medicine as prescribed.

¨     Exercise should be limited to walking; no lifting, 
straining, or excessive bending.

¨     Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.

¨     Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, or 
Ibuprofen etc. 

¨     If you were taking Aspirin prior to your injury, you may 
safely resume this medication on ___. 

**    You have been instructed not to re-start Coumadin as you 
are at risk for head injury. 
¨     You have been discharged on Keppra (Levetiracetam), you 
will not require blood work monitoring.

 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:
¨     New onset of tremors or seizures.
¨     Any confusion, lethargy or change in mental status. 
¨     Any numbness, tingling, weakness in your extremities.
¨     Pain or headache that is continually increasing, or not 
relieved by pain medication.
¨     New onset of the loss of function, or decrease of function 
on one whole side of your body.

 

 

 
Followup Instructions:
___